US07425654B2
(8-2) Synthesis of N,N,N′-triphenylbenzidine
A 0.66 weight % toluene solution 100 μl of tri-t-butylphosphine was added to a toluene 100 ml solution of 4-bromo-4′-(N,N-diphenylamino)biphenyl 4.00 g, aniline 1.11 g, tris(benzylideneacetone)-dipalladium (0) 183 mg and t-butoxysodium 1.35 g, and the mixture was stirred at room temperature for 5 hours. After finishing the reaction, the mixture was filtered through celite, and the filtrate was extracted with toluene. This was concentrated under reduced pressure, and the resulting crude product was subjected to column refining to obtain 3.20 g of pale yellow powder of N,N,N′-triphenylbenzidine.

reactant | tri-t-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 4-bromo-4′-(N,N-diphenylamino)biphenyl | 4.00 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C24H18BrN
reactant | aniline | 1.11 g | NC1=CC=CC=C1 | C6H7N
reactant | t-butoxysodium | 1.35 g | C(C)(C)(C)O[Na]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 μl | C1(=CC=CC=C1)C | C7H8
product | N,N,N′-triphenylbenzidine | 3.20 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(NC2=CC=CC=C2)C=C1)C1=CC=CC=C1 | C30H24N2
